US06265575B1
Part B. (±)-6-Hydroxy-3-[4-[[trans-2-(1-piperidyl)cyclohexyl]oxy]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene
To a solution of 1.150 g (1.84 mmol) (±)-6-methoxy-3-[4-[[trans-2-(1-piperidyl)cyclohexyl]oxy]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (Part A) in 20.0 mL of anhydrous dichloroethane at 0° C. was added 1.10 mL (14.7 mmol) of ethanethiol, followed by the addition of aluminum chloride (982 mg, 7.36 mmol). The yellow biphasic reaction mixture was allowed to warm to room temperature and stirred for 3 h. The reaction was quenched at 0° C. with 20 mL of saturated aqueous NaHCO3. The aqueous layer was separated and extracted with EtOAc (3×200 mL). The combined organic layers were washed with 150 mL of brine, dried over MgSO4, and concentrated under reduced pressure. The crude product was purified by using flash chromatography (silica gel, 60:37:3 THF-hexanes-TEA) to afford 1.067 g (1.75 mmol, 95%) of a white solid.

reactant | (±)-6-methoxy-3-[4-[[trans-2-(1-piperidyl)cyclohexyl]oxy]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 1.84 mmol, 1.150 g | COC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)O[C@H]2[C@@H](CCCC2)N2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C39H48N2O3S
reactant | ethanethiol | 14.7 mmol, 1.10 mL | C(C)S | C2H6S
reactant | aluminum chloride | 7.36 mmol, 982 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 20.0 mL | ClC(C)Cl | C2H4Cl2
product | (±)-6-Hydroxy-3-[4-[[trans-2-(1-piperidyl)cyclohexyl]oxy]benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 1.75 mmol, 1.067 g, 95% | OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)O[C@H]2[C@@H](CCCC2)N2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C1 | C38H46N2O3S
